US08293909B2
To a solution containing tetrabutylammoniumcyanide and THF (0.912 mL, 1.0 M) was added a solution containing hexafluorobenzene and THF (0.760 mL, 0.2 M) at −35° C. (caution, exothermic). The solution was removed from cooling and maintained at ambient temperature for 150 min. The solution thus obtained was cooled to 0° C. (ice bath) and added dropwise with stirring to a pre-cooled solution (−50° C., dry ice, acetone) containing tert-butyl 5,7-dichloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-3-carbonyl(methyl)carbamate and THF (0.608 mL, 0.38 M). The solution thus obtained was removed from cooling and allowed to proceed for 18 h. The solution was poured into water (25 mL). The aqueous portion was then extracted with ethyl acetate (2×25 mL). The organic portions were combined, then washed with water (3×20 mL), then washed with brine (25 mL), then dried over MgSO4, filtered and concentrated. The residue thus obtained was purified on silica gel (0-20% ethyl acetate/hexanes, 25 min gradient) to afford tert-butyl 5-chloro-7-fluoro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-3-carbonyl(methyl)carbamate as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.65-7.76 (m, 3H), 7.11-7.20 (m, 2H), 6.64 (dd, J=4.77, 2.01 Hz, 1H), 3.27 (s, 3H), 1.12 (s, 9H). LCMS retention time: 2.743 min. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna, 10 micron, C18, 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% CH3OH/90% H2O/10 mM TFA and solvent B was 10% H2O/90% CH3OH/10 mM TFA. MS data was determined using a Micromass Platform for LC in electrospray mode. m/z 422 (MH+).

reactant | hexafluorobenzene | FC1=C(C(=C(C(=C1F)F)F)F)F | C6F6
reactant | dry ice | C(=O)=O | CO2
reactant | tert-butyl 5,7-dichloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-3-carbonyl(methyl)carbamate | ClC1=CC=2N(C(=C1)Cl)N=C(C2C(=O)N(C(OC(C)(C)C)=O)C)C2=CC=C(C=C2)F | C20H18Cl2FN3O3
catalyst | tetrabutylammoniumcyanide | [C-]#N.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 0.38 M, 0.608 mL | C1CCOC1 | C4H8O
solvent | acetone | CC(=O)C | C3H6O
solvent | THF | 0.2 M, 0.760 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 M, 0.912 mL | C1CCOC1 | C4H8O
product | tert-butyl 5-chloro-7-fluoro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-3-carbonyl(methyl)carbamate | ClC1=CC=2N(C(=C1)F)N=C(C2C(=O)N(C(OC(C)(C)C)=O)C)C2=CC=C(C=C2)F | C20H18ClF2N3O3
